US03946019
Acetic anhydride (20 cc.) is added, over the course of 5 minutes, to a stirred suspension of 7-hydroxyimino-7H-indolizino[5,6,7-ij]isoquinoline (10 g.) in pyridine (100 cc.) kept at between 8° and 10° C. A brown solution is thus obtained. After stirring for 5 minutes at 10° C., the acetic acid ester crystallises. The mixture is kept at ambient temperature for a further 2 hours and then water (600 cc.) is added. The ochre-yellow crystals thus obtained are filtered off and washed copiously with water. After drying, 7-acetyloxyimino-7H-indolizino[5,6,7-ij]isoquinoline (11.0 g.), melting at 177°-179° C. with decomposition, is obtained.

reactant | Acetic anhydride | 20 cc | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-hydroxyimino-7H-indolizino[5,6,7-ij]isoquinoline | 10 g | ON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C14H9N3O
solvent | pyridine | 100 cc | N1=CC=CC=C1 | C5H5N
product | 7-acetyloxyimino-7H-indolizino[5,6,7-ij]isoquinoline | 11.0 g | C(C)(=O)ON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C16H11N3O2
